US07696240B2
1. To a solution of naphthalene-1-carbonyl chloride (3.43 g) and AlCl3 (2.40 g) in 1,2-dichloroethane (7 ml) was added at 0° C. a solution of 1H-indole-2-carboxylic acid ethyl ester (1.70 g) in 1,2-dichloroethane (7 ml) and the mixture was heated at reflux temperature for 2 h. The mixture was partitioned between ice cold water and AcOEt, the organic layer was washed with aqueous Na2CO3, dried and evaporated. The residue was chromatographed on silica (n-heptane/AcOEt, 5:1) to give 3-(naphthalene-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester as pale yellow solid. MS: 344.1 ([M+H]+).

reactant | naphthalene-1-carbonyl chloride | 3.43 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | AlCl3 | 2.40 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1H-indole-2-carboxylic acid ethyl ester | 1.70 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
solvent | 1,2-dichloroethane | 7 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 7 ml | ClCCCl | C2H4Cl2
product | 3-(naphthalene-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1C(=O)C1=CC=CC2=CC=CC=C12 | C22H17NO3
